* THS4551 - Rev. A
* Created by Sean Cashin; 2020-02-06
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt THS4551 IN+ IN- OUT+ OUT- VOCM VCC VEE
******************************************************
.MODEL R_NOISE RES (T_ABS=27)
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C1         MID CLAMP  2.08N   
C_C10         MID N1220320  1E-15   
C_C11         N1220432 MID  1E-15   
C_C1A         N781369 N703229  45.47E-12   
C_C1A10         N783783 N706294  1.768E-10   
C_C1A11         N798514 N798524  208N   
C_C1A13         MID VOCM  7E-12   
C_C1A14         MID AOLVOCM  20N   
C_C1A9         N782670 N709248  3.979E-11   
C_C1B         MID N798870  15.92F   
C_C1B1         MID N1022352  15.92F   
C_C1C         N798590 N798598  60F   
C_C33         N406634 0  1E-15   
C_C34         N317950 0  1   
C_C35         N406794 0  1E-15   
C_C36         N1063588 N757831  99.47F   
C_C37         INN MID  1E-15   
C_C5         AOL_3 MID  800F   
C_C7         INP MID  1E-15   
C_C8         MID N1116251  1E-15   
C_C9         MID N1117233  1E-15   
C_C_DIFF         ESDN ESDP  1.2E-12   
C_C_VCLP         VCLP MID  1E-12   
C_C_VIMON         MID VIMON  1E-12   
C_C_VOUT_S         MID VOUT_S  1E-12   
E_E2         N91498 MID AOL_3 MID 1
E_E3         N112292 MID OUT+ OUT- 1
E_E6         MID 0 N317950 0 1
E_E7         N799654 MID ZO+ OUT- 1
E_E8         N1220502 MID VEE_CLP VCC_CLP 1
E_E9         N1220118 MID VCC_CLP VEE_CLP 1
G_G1         N781369 MID ESDP MID 0.01
G_G12         N79669 MID CLAMP MID -1E-3
G_G2         N10570 N10561 N703229 MID -1E-3
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G5         N798514 MID AOL_3 N799654 -700
G_G58         N782670 MID VCC_B MID 7.906E-3
G_G59         N783783 MID VEE_B MID 3.514E-2
G_G6         N25816 N11984 N709248 N706294 -1E-3
G_G60         N694641 MID N757831 MID -1
G_G61         N798534 MID N798524 MID -1
G_G68         AOLVOCM MID N1242451 VOUT_CM -1
G_G69         ZO+ MID AOLVOCM MID -0.001
G_G70         OUT- MID AOLVOCM MID -0.001
G_G71         N1022298 MID N798544 MID -1
G_G72         N1063588 MID N79669 MID -1
G_G8         VCC_CLP MID N1116251 MID -1E-3
G_G9         VEE_CLP MID N1117233 MID -1E-3
G_GB2         N798590 MID N1022308 MID -100
G_GB3         AOLZO+ AOLZO- N798598 MID -142.9
I_I_B         MID N06458 DC 1E-6  
I_I_OS         MID ESDN DC 990E-9  
I_I_Q         VCC VEE DC 1.37E-3  
L_L1         N694641 AOL_3  350N  
R_R1         ESDP IN+ R_NOISELESS 10E-3
R_R10         ESDN N1151745 R_NOISELESS 1E-3
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R141         N781369 MID R_NOISELESS 1
R_R142         N782670 MID R_NOISELESS 1
R_R143         N783783 MID R_NOISELESS 1
R_R145         N694641 MID R_NOISELESS 1
R_R146         AOL_3 MID R_NOISELESS 800
R_R147         MID N798514 R_NOISELESS 1
R_R148         MID N798534 R_NOISELESS 1
R_R168         VCC VOCM R_NOISE 300E3
R_R169         VOCM VEE R_NOISE 300E3
R_R184         MID ZO+ R_NOISELESS 1K
R_R185         MID OUT- R_NOISELESS 1K
R_R186         OUT- AOLZO- R_NOISELESS 350K
R_R187         ZO+ AOLZO+ R_NOISELESS 350K
R_R188         ZO+ OUT- R_NOISELESS 70K
R_R190         MID N1022298 R_NOISELESS 1
R_R195         N1063588 MID R_NOISELESS 1
R_R196         N1063588 N757831 R_NOISELESS 10K
R_R197         N757831 MID R_NOISELESS 11.43K
R_R1A         N781369 N703229 R_NOISELESS 10E3
R_R1A10         N782670 N709248 R_NOISELESS 10E3
R_R1A11         N783783 N706294 R_NOISELESS 10E3
R_R1A12         N798524 N798514 R_NOISELESS 10K
R_R1B         N798870 N798544 R_NOISELESS 10K
R_R1B1         N1022352 N1022308 R_NOISELESS 10K
R_R1C         N798598 N798590 R_NOISELESS 10K
R_R2         ESDN IN- R_NOISELESS 10E-3
R_R200         AOLZO- VOUT_CM R_NOISELESS 0.5
R_R201         N1151603 MID R_NOISELESS 1E9
R_R202         INN N1151717 R_NOISELESS 1E-3
R_R203         MID N1151717 R_NOISELESS 1
R_R204         MID N1151839 R_NOISELESS 1E9
R_R205         MID CLAMP R_NOISELESS 1E6
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R27         MID N30913 R_NOISELESS 1
R_R28         INP N30913 R_NOISELESS 1E-3
R_R29         N1116229 VCC_B R_NOISELESS 1E3
R_R2A         N703229 MID R_NOISELESS 1.75
R_R2A10         N709248 MID R_NOISELESS 4
R_R2A11         N706294 MID R_NOISELESS 0.9
R_R2A12         MID N798524 R_NOISELESS 85.73
R_R2B         N798544 N798534 R_NOISELESS 1.351MEG
R_R2B1         N1022308 N1022298 R_NOISELESS 50K
R_R3         N1174153 N1174757 R_NOISELESS 1E5
R_R30         N1116251 N1116229 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N1117217 VEE_B R_NOISELESS 1E3
R_R33         N1117233 N1117217 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R35         MID N1220118 R_NOISELESS 1E9
R_R36         N1220292 MID R_NOISELESS 1
R_R37         N1220320 N1220292 R_NOISELESS 1E-3
R_R38         N1220432 N1220418 R_NOISELESS 1E-3
R_R39         MID N1220418 R_NOISELESS 1
R_R4         MID N798590 R_NOISELESS 1
R_R40         MID N1220502 R_NOISELESS 1E9
R_R5         VOUT_CM AOLZO+ R_NOISELESS 0.5
R_R6         MID N798598 R_NOISELESS 101
R_R60         MID AOLNET R_NOISELESS 1E6
R_R62         MID N79669 R_NOISELESS 1E3
R_R8         N10561 N10570 R_NOISELESS 1E3
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         N10570 N11984 R_NOISELESS 1E-3
R_R_VCLP         N91498 VCLP R_NOISELESS 100
R_R_VIMON         VIMON N110431 R_NOISELESS 100
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 100
V_CMVOS         N1242451 N1252473 0.0002
V_VCM_MAX         N30136 VCC_B -1.1
V_VCM_MAX1         N1151603 VCC_B -1.1
V_VCM_MIN         N28602 VEE_B -0.2
V_VCM_MIN1         N1151839 VEE_B -0.2
X_AOL_1_THS4551         INP INN MID AOLNET AOL_1_THS4551 
X_AOL_2         AOLNET MID MID CLAMP AOL_2_THS4551 
X_CLAWN         MID VIMON VEE_B N1117217 CLAWN_THS4551 
X_CLAWP         VIMON MID N1116229 VCC_B CLAWP_THS4551 
X_CLAW_AMP         N1220118 N1220502 VOUT_S MID N1220292 N1220418 CLAMP_AMP_LO_THS4551 
X_CLAW_SRC         N1220320 N1220432 CLAMP MID CLAW_SRC_THS4551 
X_ESD_OUT         OUT+ VCC VEE ESD_OUT_THS4551 
X_ESD_OUT1         OUT- VCC VEE ESD_OUT_THS4551 
X_H3    OUT+ ZO+ N110431 MID 08_OP_AMP_COMPLETE_H3_THS4551 
X_IQ_N         MID VIMON MID VEE IQ_SRC_THS4551 
X_IQ_P         VIMON MID VCC MID IQ_SRC_THS4551 
X_I_NN         ESDN MID FEMT_THS4551 
X_I_NP         N06458 MID FEMT_THS4551 
X_S10    VEE_CLP ZO+ ZO+ MID 08_OP_AMP_COMPLETE_S10_THS4551 
X_S11    OUT- VCC_CLP OUT- MID 08_OP_AMP_COMPLETE_S11_THS4551 
X_S12    VEE_CLP OUT- OUT- MID 08_OP_AMP_COMPLETE_S12_THS4551 
X_S13    AOLVOCM MID AOLVOCM MID 08_OP_AMP_COMPLETE_S13_THS4551 
X_S14    MID AOLVOCM MID AOLVOCM 08_OP_AMP_COMPLETE_S14_THS4551 
X_S9    ZO+ VCC_CLP ZO+ MID 08_OP_AMP_COMPLETE_S9_THS4551 
X_U1         ESDP N06458 VNSE_THS4551 
X_U2         VOCM N1252473 VNSE_THS4551 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_THS4551 
X_VCM_CLAMP1         N1151745 MID N1151717 MID N1151603 N1151839 VCM_CLAMP_THS4551 
X_VOS_DRIFT         N749288 N06458 VOS_DRIFT_THS4551 
X_VOS_VS_VCM         N10561 N749288 VCC VEE VOS_VS_VCM_THS4551 
X_W1    N1174153 ESDN ESDP ESDN 08_OP_AMP_COMPLETE_W1_THS4551 
X_W2    N1174757 ESDP ESDP ESDN 08_OP_AMP_COMPLETE_W2_THS4551 
.ENDS  THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_H3_THS4551 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H3_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S10_THS4551 1 2 3 4  
S_S10         3 4 1 2 _S10
RS_S10         1 2 1G
.MODEL         _S10 VSWITCH ROFF=1MEG RON=1 VOFF=-0.1 VON=0.1
.ENDS  08_OP_AMP_COMPLETE_S10_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S11_THS4551 1 2 3 4  
S_S11         3 4 1 2 _S11
RS_S11         1 2 1G
.MODEL         _S11 VSWITCH ROFF=1MEG RON=1 VOFF=-0.1 VON=0.1
.ENDS  08_OP_AMP_COMPLETE_S11_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S12_THS4551 1 2 3 4  
S_S12         3 4 1 2 _S12
RS_S12         1 2 1G
.MODEL         _S12 VSWITCH ROFF=1MEG RON=1 VOFF=-0.1 VON=0.1
.ENDS  08_OP_AMP_COMPLETE_S12_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S13_THS4551 1 2 3 4  
S_S13         3 4 1 2 _S13
RS_S13         1 2 1G
.MODEL         _S13 VSWITCH ROFF=2K RON=1 VOFF=3.5 VON=4
.ENDS  08_OP_AMP_COMPLETE_S13_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S14_THS4551 1 2 3 4  
S_S14         3 4 1 2 _S14
RS_S14         1 2 1G
.MODEL         _S14 VSWITCH ROFF=2K RON=1 VOFF=3.5 VON=4
.ENDS  08_OP_AMP_COMPLETE_S14_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_S9_THS4551 1 2 3 4  
S_S9         3 4 1 2 _S9
RS_S9         1 2 1G
.MODEL         _S9 VSWITCH ROFF=1MEG RON=1 VOFF=-0.1 VON=0.1
.ENDS  08_OP_AMP_COMPLETE_S9_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_W1_THS4551 1 2 3 4  
W_W1         3 4 VW_W1 _W1
VW_W1         1 2 0V
.MODEL         _W1 ISWITCH ROFF=10MEG RON=1 IOFF=5U ION=7U
.ENDS  08_OP_AMP_COMPLETE_W1_THS4551
*
.SUBCKT 08_OP_AMP_COMPLETE_W2_THS4551 1 2 3 4  
W_W2         3 4 VW_W2 _W2
VW_W2         1 2 0V
.MODEL         _W2 ISWITCH ROFF=10MEG RON=1 IOFF=5U ION=7U
.ENDS  08_OP_AMP_COMPLETE_W2_THS4551
*
.SUBCKT AOL_1_THS4551 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_THS4551
*
.SUBCKT AOL_2_THS4551 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 3.3E-3
.PARAM IPOS = 0.87
.PARAM INEG = -0.87
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_THS4551
*
.SUBCKT CLAMP_AMP_LO_THS4551 VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_THS4551
*
.SUBCKT CLAWN_THS4551 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 9E-5)
+(2.39,	9.06E-05)
+(4.29,	1.17E-04)
+(6.23,	1.59E-04)
+(8.52,	2.01E-04)
+(12.6, 2.64E-04)
+(15.4, 3.17E-04)
+(19.3, 3.75E-04)
+(23.5, 4.82E-04)
+(29.3, 6.15E-04)
+(34.9, 7.53E-04)
+(45.0, 1.00E-03)
+(55.0, 1.25E-03)
+(65.0, 1.50E-03)
+(66.0, 5.00E-03)
.ENDS  CLAWN_THS4551
*
.SUBCKT CLAWP_THS4551 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1E-04)
+(3.00,	1.02E-04)
+(3.42,	1.08E-04)
+(4.01,	1.02E-04)
+(4.77,	1.13E-04)
+(5.87,	1.51E-04)
+(21.0, 3.99E-04)
+(25.4, 4.68E-04)
+(30.7, 6.57E-04)
+(34.8, 7.43E-04)
+(45.0, 1.00E-03)
+(55.0, 1.25E-03)
+(65.0, 1.50E-03)
+(66.0, 5.00E-03)
.ENDS  CLAWP_THS4551
*
.SUBCKT CLAW_SRC_THS4551 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 40
.PARAM IPOS = 20
.PARAM INEG = -20
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_THS4551
*
.SUBCKT ESD_OUT_THS4551 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ENDS  ESD_OUT_THS4551
*
.SUBCKT FEMT_THS4551 1 2
.PARAM FLWF=10
.PARAM NLFF=12E3
.PARAM NVRF=100
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_THS4551
*
.SUBCKT IQ_SRC_THS4551 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_THS4551
*
.SUBCKT VCM_CLAMP_THS4551 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_THS4551
*
.SUBCKT VNSE_THS4551 1 2
.PARAM FLW=10
.PARAM NLF=5.5
.PARAM NVR=1.667
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_THS4551
*
.SUBCKT VOS_DRIFT_THS4551 VOS+ VOS-
.PARAM DC = 34.2E-6
.PARAM POL = 1
.PARAM DRIFT = 0.46E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_THS4551
*
.SUBCKT VOS_VS_VCM_THS4551 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450E-6)
+(0.4, 435E-6)
+(0.55, 275E-6)
+(0.65, 150E-6)
+(0.75, 75E-6)
+(0.85, 25E-6)
+(1, 0)
V1 1 V- 0
.ENDS  VOS_VS_VCM_THS4551